US08168659B2
2-(6-Trifluoromethyl-pyridin-3-yl)-propan-2-ol
Cool the contents of an inerted reaction vessel containing technical grade 6-trifluoromethyl-nicotinic acid ethyl ester (45.6 moles; 10.00 kg) and tert-butyl methyl ether (71.6 L; 53.0 kg) to 10-15° C., and add the solution into a separate inerted reaction vessel cooled to 5-12° C. containing 3 M methylmagnesium chloride (136.8 moles; 45.6 L; 46.2 kg) and tetrahydrofuran (76.5 L; 68.0 kg). Observe a moderate exotherm during the addition, and maintain the internal reaction temperature between 15-25° C. Confirm that the starting ester is completely consumed by HPLC, and cool the reactor contents to 0-3° C. Add the contents from the reaction vessel slowly to a separate reactor cooled to 0-5° C. containing hydrochloric acid (203 moles; 16.67 L; 20.0 kg) and water (81.0 L, 81.0 kg), and observe gas evolution. Separate the layers and extract the aqueous phase once with tert-butyl methyl ether (59.5 L; 44.0 kg). Combine the organic layers and wash with a 20% sodium chloride solution (189.3 moles; 46.5 L; 55.3 kg). Filter the organic solution, concentrate to approximately 1 volume, and dilute with acetonitrile (31.8 L; 25.0 kg). Concentrate the solution to approximately 1 volume to provide the titled compound as a technical grade oil (7.9 kg; 84.4%, based on HPLC) in acetonitrile. Use the crude material as a solution in acetonitrile without further purification. A pure sample of the product can be obtained by following the procedure given below.

reactant | 6-trifluoromethyl-nicotinic acid ethyl ester | 45.6 moles, 10.00 kg | C(C)OC(C1=CN=C(C=C1)C(F)(F)F)=O | C9H8F3NO2
reactant | methylmagnesium chloride | 136.8 moles, 3 M, 45.6 L, 46.2 kg | C[Mg]Cl
reactant | hydrochloric acid | 203 moles, 16.67 L, 20.0 kg | Cl | ClH
reactant | sodium chloride | 189.3 moles, 46.5 L, 55.3 kg | [Cl-].[Na+]
reactant | tert-butyl methyl ether | 71.6 L, 53.0 kg | COC(C)(C)C | C5H12O
solvent | water | 81.0 L, 81.0 kg | O | H2O
solvent | tetrahydrofuran | 76.5 L, 68.0 kg | O1CCCC1 | C4H8O
product | 2-(6-Trifluoromethyl-pyridin-3-yl)-propan-2-ol | FC(C1=CC=C(C=N1)C(C)(C)O)(F)F | C9H10F3NO
